data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_392410_1,[C:1]1([N:5]([C:3]([H:13])([H:14])[H:15])[O:7][H:8])([H:9])[N:4]([C:2]([H:10])([H:11])[H:12])[O:6]1>>[C:1](=[N:5]/[C:3]([H:13])([H:14])[H:15])(\[O:6][N:4]([C:2]([H:10])([H:11])[H:12])[O:7][H:8])[H:9],38.86985999998913
MR_314739_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]\[H:12])=[O:8])([N:6]([H:10])[H:11])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]1([C:3]([H:16])([H:17])[H:18])[C:4](=[O:8])[N:7]1[H:12])([N:6]([H:10])[H:11])[H:9],65.15646250003797
MR_326769_0,[C:1]([C:2]([O:6][O:7][H:8])([H:9])[H:10])([C:3]([H:11])([H:14])[H:15])([C:4]([H:12])([H:16])[H:17])[C:5]([H:13])([H:18])[H:19]>>[C:1]([C:3]([H:11])([H:14])[H:15])([C:4]([H:12])([H:16])[H:17])([C:5]([H:13])([H:18])[H:19])[O:6][C:2]([O:7][H:8])([H:9])[H:10],62.2900424999628
MR_105862_0,[C:1]([C:4]1([C:3]([O:6][H:8])=[O:7])[N:2]=[C:5]1[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[C:5]([H:9])[N:2]1[C:3]([O:6][H:8])=[O:7])([H:10])([H:11])[H:12],68.59641749998488
MR_566151_1,[C:1](/[C:4]([N:5]([H:11])[H:12])=[N:7]\[C:3]([N:2]([O:6][H:9])[H:10])=[N:8]\[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@@:4]([N:2]([O:6][H:9])[H:10])([N:5]([H:11])[H:12])[N:7][C:3][N:8][H:13])([H:14])([H:15])[H:16],46.81965749999961
MR_606847_0,[C:1]([C:3]([N:2](/[C:5](=[N:8]/[N:4]([H:10])[H:11])[H:12])[O:7][H:9])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:3](=[C:6]([H:16])[H:17])[N:8]([N:4]([H:10])[H:11])[C:5]([N:2][O:7][H:9])[H:12])([H:13])([H:14])[H:15],55.23443249997754
MR_175659_1,[C:1]([C:5](=[C:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[H:11])([O:6][O:7][H:8])([H:9])[H:10]>>[C:1](=[C:5]([C:4]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[O:6][O:7][H:8])[H:11])([H:9])[H:10],47.18925499999386
MR_25523_0,[C:1]([N:3](/[N:6]=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[H:7])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[N:6]/[C:4]([C:2]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[H:7])([H:10])([H:11])[H:12],71.89330250000765
MR_693676_1,[C:1]([C:4](=[C:2](/[N:5]([H:11])[H:12])[O:6][H:9])/[C:3]([O:7][H:10])=[N:8]/[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:3]([O:7][H:10])[N:8]([H:13])[C:2]1([N:5]([H:11])[H:12])[O:6][H:9])([H:14])([H:15])[H:16],47.7245124999979
MR_30200_1,[C:1]1([C:3]([H:12])([H:13])[H:14])([H:9])[C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[C:5]1([O:6][H:8])[O:7][H:11]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:5]([O:6][H:8])=[O:7])[H:10])([C:3]([H:12])([H:13])[H:14])([H:9])[H:11],54.96398000001832
MR_434327_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]\[H:12])([N:6]([H:10])[H:11])[H:9]>>[C:1]1([N:6]([H:10])[H:11])([H:9])[C:5]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])[N:7]1[H:12],64.49382249996319
MR_120824_0,[C:1]([C:2](/[C:5](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13])([C:4](=[O:8])[H:11])([O:7][H:9])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:2]([H:12])([H:13])[C:5]1([C:6]([C:3]([H:16])([H:17])[H:18])([C:4](=[O:8])[H:11])[H:15])[H:14],72.86404500001794
MR_161981_0,[C:1](/[C:4]([N:2]([O:6][H:8])[H:10])=[C:3](\[N:5]([H:11])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1](/[C:4](=[N:2]\[O:6][H:8])[C@@:3]([N:5]([H:11])[H:12])([O:7][H:9])[H:10])([H:13])([H:14])[H:15],61.299219999967534
MR_380417_0,[C:1]([C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([O:7][H:12])[O:8][H:13])([O:9][H:10])[H:14])(=[O:5])[O:6][H:11]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([O:7][H:12])[O:8][H:13])([C:4](=[O:9])[H:14])([O:5][H:10])[O:6][H:11],59.948840000024006
MR_121956_1,[C:1]([C:2]1([O:5][H:7])/[C:3](=[N:6]/[H:8])[C:4]1([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1](/[C:3]([C:2](=[C:4]([H:12])[H:13])[O:5][H:7])=[N:6]\[H:8])([H:9])([H:10])[H:11],69.66316750003813
MR_467099_1,[N:1](/[C:3]([N:4]([H:11])[H:12])=[N:7]/[H:13])([O:5][C:2]([O:6][H:9])=[O:8])[H:10]>>[N:1]1([H:10])[C@:3]([N:4]([H:11])[H:12])([N:7]([C:2]([O:6][H:9])=[O:8])[H:13])[O:5]1,48.94751000001335
MR_416748_1,[N:1]([N:2]([H:8])[H:9])(/[C:4](=[N:6]\[N:3]([H:10])[H:11])[H:12])[O:5][H:7]>>[N:1]([C:4]([N:6]([N:2]([H:8])[H:9])[N:3]([H:10])[H:11])[H:12])[O:5][H:7],61.31930000002384
MR_165979_0,[C:1]([C:4]([C:3]([H:14])([H:15])[H:16])([N:7]([C:2]([H:11])([H:12])[H:13])[H:8])[H:10])(=[O:5])[O:6][H:9]>>[C:1](/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[C:2]([H:11])([H:12])[H:13])([O:5][H:8])([O:6][H:9])[H:10],46.54857749997064
MR_456680_0,[N:1](/[C:2]([N:3]([H:9])[H:10])=[C:6](/[N:4]([H:11])[H:12])[H:14])([C:5](=[O:7])[H:13])[H:8]>>[N:1]1([H:8])[C:2]([N:3]([H:9])[H:10])([C:5](=[O:7])[H:13])[C:6]1([N:4]([H:11])[H:12])[H:14],64.51076499999175
MR_189369_0,[C:1]1([H:12])([H:13])[N:4]([H:9])/[C:5](=[N:8]/[H:10])[N:7]1/[C:6](=[N:3]/[C:2]([H:14])([H:15])[H:16])[H:11]>>[C:1]1([H:12])([H:13])[N:4]([H:9])/[C:5](=[N:8]/[H:10])[N:3]([C:2]([H:14])([H:15])[H:16])[C:6]([H:11])=[N:7]1,53.574695000030346
